US09290446B2
2) Preparation of chloromethyl phenyl sulfoxide (Compound VIII)
Chloromethyl phenyl sulfide (3 g, 18.9 mmol) was dissolved in a mixture of methanol (15 mL) and water (3 mL). The resulting mixture was cooled to a temperature between 0° C. and 5° C. NBS (4.04 g, 1.2 eq) was added in small portions, maintaining the same temperature range. The reaction mixture was stirred within the same temperature range until the reaction was complete. Thereafter, the reaction mixture was quenched by the addition of Na2SO3 solution (10%, 15 mL). The pH of the reaction mixture was adjusted to a value between 7 and 8, with saturated NaHCO3 solution. The resulting mixture was extracted with dichloromethane (3×50 mL). The combined organic layer was dried with anhydrous MgSO4 and concentrated. The crude product was purified by medium pressure chromatography (Ethyl Acetate/Hexane 2:8) to give 1.381 g (42%) of the desired product as a colourless liquid. 1H NMR (CDCl3, 400 MHz): δ 7.71-7.69 (2H, m), 7.57-7.56 (3H, m), 4.41 (2H, ABQ, J=10.8 Hz). 13C NMR (CDCl3, 100 MHz): δ 140.8, 132.1, 126.3, 124.8, 61.3. FT-IR (NaCl): 3058, 3004, 2935, 1472, 1444, 1384, 1218, 1085, 1052 cm−1.

reactant | Chloromethyl phenyl sulfide | 18.9 mmol, 3 g | C1(=CC=CC=C1)SCCl | C7H7ClS
reactant | NBS | 4.04 g, 1.2 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | chloromethyl phenyl sulfoxide | 1.381 g, 42% | C1(=CC=CC=C1)S(=O)CCl | C7H7ClOS
